US04456562
To a 30 ml of flask equipped with distillating apparatus, 30 mg of conc. sulfuric acid, 10 ml of MIBK, 598 mg of p-hydroxybenzaldoxime were introduced and the reaction mixture was heated up to 130° C. Heating under stirring with a magnetic stirrer was continued for 30 minutes, and about 3.5 ml of MIBK thereby was distilled off. Reaction solution was subjected to gaschromatography analysis to find that 392 mg (76% yield) of p-cyanophenol was produced. The conversion was 100%.

reactant | sulfuric acid | 30 mg | S(O)(O)(=O)=O | H2O4S
reactant | p-hydroxybenzaldoxime | 598 mg | OC1=CC=C(C=NO)C=C1 | C7H7NO2
solvent | MIBK | 10 ml | CC(C)CC(=O)C | C6H12O
product | p-cyanophenol | 392 mg, 76% yield | C(#N)C1=CC=C(C=C1)O | C7H5NO
